US06005103
4-Hydroxy-6-phenyl-3-[phenyl[(phenylmethyl)thio]methyl]-2H-pyran-2-one, (±)
The title compound was prepared by Method C using 4-hydroxy-6-phenyl-2H-pyran-2-one (1.00 g, 5.31 mmol), ethanol (10 mL), benzaldehyde (0.593 mL, 5.84 mmol), benzylmercaptan (1.62 mL, 13.8 mmol), piperdine (0.5 mL), acetic acid (0.5 mL). m.p. 189-191° C.; 1H NMR (400 MHz, DMSO-d6) δ3.70 (dd, 2 H), 5.29 (s, 1 H), 6.65 (s, 1 H), 7.23 (m, 8H), 7.50 (m, 5 H), 7.73 (m, 2 H), 11.96 (bs, 1 H).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 5.31 mmol, 1.00 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | benzaldehyde | 5.84 mmol, 0.593 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | benzylmercaptan | 13.8 mmol, 1.62 mL | C(C1=CC=CC=C1)S | C7H8S
reactant | piperdine | 0.5 mL | N1CCCCC1 | C5H11N
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-Hydroxy-6-phenyl-3-[phenyl[(phenylmethyl)thio]methyl]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)C(SCC1=CC=CC=C1)C1=CC=CC=C1 | C25H20O3S
